US05856518
7-Amino-4-oxo-5-azaspiro[2.4]heptane
An autoclave was charged with 1.0 g of 1-(1-amino-1-cyanomethyl)-1-ethoxycarbonylcyclopropane, 0.4 ml of Raney nickel and 4.0 ml of ammonia-saturated ethanol, and the contents were stirred at 80° C. for 4 hours in an atmosphere of hydrogen under a pressure of 20 kg/cm2. After completion of the reaction, the catalyst was removed by filtration and the resulting filtrate was concentrated under a reduced pressure to obtain 692 mg (92%) of the title compound in the form of colorless crystals. The thus obtained product was recrystallized from ethyl acetate and diethyl ether and used as a sample for analyses.

reactant | 1-(1-amino-1-cyanomethyl)-1-ethoxycarbonylcyclopropane | 1.0 g | NC(C#N)C1(CC1)C(=O)OCC | C8H12N2O2
reactant | ammonia | 4.0 ml | N | H3N
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 0.4 ml | [Ni] | Ni
product | 7-Amino-4-oxo-5-azaspiro[2.4]heptane | 692 mg, 92% | NC1CNC(C12CC2)=O | C6H10N2O
